US05677306
The procedure is carried out as in Example 1 but starting with 2 g of 1-(4-methyl-1-oxo-2-indanyl)imidazole-2-carboxamide, a total of 60 ml of methanol and 25 ml of 12N aqueous hydrochloric acid solution. 1.45 g of 9-methyl-5H, 10H-imidazo [1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride are thus obtained which decompose without melting above 300° C. [NMR spectrum: (300 MHz; DMSO-d6 plus a few drops of CD3COOD-d4 ; δ in ppm): 2.40 (s, 3H: --CH3); 4.01 (s, 2H: --CH2-- in position 10); 7.23 (d, J=8 Hz 1H: --H8); 7.36 (t, J=8 Hz, 1H: --H7); 7.8 (d, J=8 Hz, 1H: --H6); 8.17 and 8.36 (2d, J=1 Hz, 1H each: --H of imidazole).

reactant | 1-(4-methyl-1-oxo-2-indanyl)imidazole-2-carboxamide | 2 g | CC1=C2CC(C(C2=CC=C1)=O)N1C(=NC=C1)C(=O)N | C14H13N3O2
reactant | hydrochloric acid | 12N, 25 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | 9-methyl-5H, 10H-imidazo [1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 1.45 g | Cl.CC=1C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=CC1 | InChI=1S/C14H11N3O.ClH/c1-8-3-2-4-9-10(8)7-11-12(9)16-14(18)13-15-5-6-17(11)13;/h2-6H,7H2,1H3,(H,16,18);1H
